US04376860
5-(3-Pyridylcarbonyl)-m-dioxane
A 60.6 g. portion of 3-acetylpyridine was combined with 54 g. of paraformaldehyde and 250 ml. of acetic acid. The mixture was cooled in an ice bath, and 184 ml. (1.5 moles) of boron trifluoride etherate was added dropwise with stirring, over a period of about 40 minutes. The temperature of the mixture ranged from 15° to 26° during the addition. The mixture was then stirred under reflux, at about 67°, for 2 hours 15 minutes, and was then cooled slightly. The volatile portions and most of the acetic acid were removed under vacuum, and the remaining mixture was rinsed with water to a large beaker and was made basic with ammonium hydroxide. The basic mixture was filtered through glass wool, and the filtrate was extracted with chloroform. The organic layer was then washed with saturated aqueous sodium chloride, and was dried over magnesium sulfate and filtered. The filtrate was evaporated under vacuum to obtain 128 g. of crude product, which was recrystallized from isopropanol. The total yield was 59.1 g. of purified product, the first crop of which had a melting point of 98°-100°.

reactant | 3-acetylpyridine | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | paraformaldehyde | C=O | CH2O
reactant | boron trifluoride etherate | 1.5 moles | B(F)(F)F.CCOCC
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(3-Pyridylcarbonyl)-m-dioxane | N1=CC(=CC=C1)C(=O)C1COCOC1 | C10H11NO3
